US05780498
To a stirred solution of indole (5.6 g, 47.8 mmol) in acetonitrile (130 ml) is added Eschenmoser's salt (10 g, 54 mmol) under nitrogen atmosphere and the mixture is stirred for 30 min. The mixture is concentrated in vacuo and the residue is diluted with 1M sodium hydroxide solution and extracted with methylene chloride. The organic layer is dried over sodium carbonate and concentrated in vacuo to give 3-(dimethylaminomethyl)indole as a brown oil. To a solution of 3-(dimethylaminomethyl)indole in methylene chloride (200 ml) is dropped methyl iodide (5 ml, 80 mmol). The mixture is stirred at r.t. for 6 hrs. and concentrated in vacuo to give (3-indolylmethyl)trimethylammonium iodide as a brown foam. To a cooled (0° C.) suspension of sodium hydroxide (1.5 g, 37 mmol) in DMF (100 ml) is added trimethyl phosphonoacetate (6.7 ml, 41 mmol) and the mixture is stirred at 0° C. for 30 min. To the mixture is added (3-indolylmethyl)trimethylammonium iodide and the whole is stirred at r.t. overnight. The mixture is diluted with water and extracted with ethyl acetate. The organic layer is dried over magnesium sulfate and concentrated in vacuo. The residue is chromatographed on silica gel with ethyl acetate to give methyl 3-(3-indolyl)-2-(dimethylphosphono)propionate a a brown oil.

reactant | 3-(dimethylaminomethyl)indole | CN(C)CC1=CNC2=CC=CC=C12 | C11H14N2
reactant | methyl iodide | 80 mmol, 5 ml | CI | CH3I
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (3-indolylmethyl)trimethylammonium iodide | [I-].N1C=C(C2=CC=CC=C12)C[N+](C)(C)C | InChI=1S/C12H17N2.HI/c1-14(2,3)9-10-8-13-12-7-5-4-6-11(10)12;/h4-8,13H,9H2,1-3H3;1H/q+1;/p-1
